**************************************************
* Manufacturer:          Würth Elektronik
* Kinds:                 Film Capacitors
* Matchcode:             WCAP-FTBE
* Library Type:          Pspice
* Version:               rev24a
* Created/modified by:   Ella
* Date and Time:         7/11/2024
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************
.subckt FTBE_890273422002CS_220nF 1 2
Rser 1 3 2.36199999999999E-02
Lser 2 4 0.00000000516
C1 3 4 0.00000022
Rpar 3 4 9000000000
.ends FTBE_890273422002CS_220nF
*******
.subckt FTBE_890283422005CS_150nF 1 2
Rser 1 3 0.0342140843585
Lser 2 4 6.383555335E-09
C1 3 4 0.00000015
Rpar 3 4 9000000000
.ends FTBE_890283422005CS_150nF
*******
.subckt FTBE_890303422005CS_47nF 1 2
Rser 1 3 4.84399999999999E-02
Lser 2 4 0.00000000554
C1 3 4 0.000000047
Rpar 3 4 9000000000
.ends FTBE_890303422005CS_47nF
*******
.subckt FTBE_890493422002CS_10nF 1 2
Rser 1 3 0.0891572174885
Lser 2 4 7.354879378E-09
C1 3 4 0.00000001
Rpar 3 4 9000000000
.ends FTBE_890493422002CS_10nF
*******
.subckt FTBE_890283422001CS_68nF 1 2
Rser 1 3 0.0478791582353
Lser 2 4 8.008926597E-09
C1 3 4 0.000000068
Rpar 3 4 9000000000
.ends FTBE_890283422001CS_68nF
*******
.subckt FTBE_890493428013CS_4R7uF 1 2
Rser 1 3 0.044
Lser 2 4 0.000000022
C1 3 4 0.0000047
Rpar 3 4 638297872.340425
.ends FTBE_890493428013CS_4R7uF
*******
.subckt FTBE_890283428007CS_6R8uF 1 2
Rser 1 3 0.0265870387102
Lser 2 4 1.01857505093E-07
C1 3 4 0.0000068
Rpar 3 4 441176470.588235
.ends FTBE_890283428007CS_6R8uF
*******
.subckt FTBE_890303428008CS_3R3uF 1 2
Rser 1 3 0.0268642742695
Lser 2 4 1.35344594223E-07
C1 3 4 0.0000033
Rpar 3 4 909090909.090909
.ends FTBE_890303428008CS_3R3uF
*******
.subckt FTBE_890283427007CS_3R3uF 1 2
Rser 1 3 0.0156368697637
Lser 2 4 1.5882878463E-08
C1 3 4 0.0000033
Rpar 3 4 909090909.090909
.ends FTBE_890283427007CS_3R3uF
*******
.subckt FTBE_890303427009CS_1R5uF 1 2
Rser 1 3 0.0275799803666
Lser 2 4 1.6818559318E-08
C1 3 4 0.0000015
Rpar 3 4 2000000000
.ends FTBE_890303427009CS_1R5uF
*******
.subckt FTBE_890273427005CS_4R7uF 1 2
Rser 1 3 0.0180401002243
Lser 2 4 1.146063265E-08
C1 3 4 0.0000047
Rpar 3 4 638297872.340425
.ends FTBE_890273427005CS_4R7uF
*******
.subckt FTBE_890493427007CS_470nF 1 2
Rser 1 3 0.0417798939675
Lser 2 4 1.3274149994E-08
C1 3 4 0.00000047
Rpar 3 4 6382978723.40425
.ends FTBE_890493427007CS_470nF
*******
.subckt FTBE_890283426008CS_1uF 1 2
Rser 1 3 0.0265462286737
Lser 2 4 1.3980922724E-08
C1 3 4 0.000001
Rpar 3 4 3000000000
.ends FTBE_890283426008CS_1uF
*******
.subckt FTBE_890303426008CS_470nF 1 2
Rser 1 3 4.50399999999999E-02
Lser 2 4 0.00000001317
C1 3 4 0.00000047
Rpar 3 4 6382978723.40425
.ends FTBE_890303426008CS_470nF
*******
.subckt FTBE_890493426011CS_220nF 1 2
Rser 1 3 4.79699999999999E-02
Lser 2 4 0.00000001013
C1 3 4 0.00000022
Rpar 3 4 9000000000
.ends FTBE_890493426011CS_220nF
*******
.subckt FTBE_890263426003CS_3R3uF 1 2
Rser 1 3 0.0147141044578
Lser 2 4 1.4850016804E-08
C1 3 4 0.0000033
Rpar 3 4 909090909.090909
.ends FTBE_890263426003CS_3R3uF
*******
.subckt FTBE_890263426001CS_2R2uF 1 2
Rser 1 3 0.0207936257403
Lser 2 4 1.3489566979E-08
C1 3 4 0.0000022
Rpar 3 4 1363636363.63636
.ends FTBE_890263426001CS_2R2uF
*******
.subckt FTBE_890283426004CS_470nF 1 2
Rser 1 3 0.0130306048361
Lser 2 4 1.8041330457E-08
C1 3 4 0.00000047
Rpar 3 4 6382978723.40425
.ends FTBE_890283426004CS_470nF
*******
.subckt FTBE_890263425004CS_2R2uF 1 2
Rser 1 3 0.0196538190645
Lser 2 4 1.1417797143E-08
C1 3 4 0.0000022
Rpar 3 4 1363636363.63636
.ends FTBE_890263425004CS_2R2uF
*******
.subckt FTBE_890283425008CS_680nF 1 2
Rser 1 3 0.0248767435982
Lser 2 4 1.0967659971E-08
C1 3 4 0.00000068
Rpar 3 4 4411764705.88235
.ends FTBE_890283425008CS_680nF
*******
.subckt FTBE_890493425009CS_100nF 1 2
Rser 1 3 4.48199999999999E-02
Lser 2 4 0.00000000841
C1 3 4 0.0000001
Rpar 3 4 9000000000
.ends FTBE_890493425009CS_100nF
*******
.subckt FTBE_890273425007CS_1uF 1 2
Rser 1 3 0.0225988219778
Lser 2 4 9.843239653E-09
C1 3 4 0.000001
Rpar 3 4 3000000000
.ends FTBE_890273425007CS_1uF
*******
.subckt FTBE_890303425004CS_100nF 1 2
Rser 1 3 0.0573543678207
Lser 2 4 1.3595885055E-08
C1 3 4 0.0000001
Rpar 3 4 9000000000
.ends FTBE_890303425004CS_100nF
*******
.subckt FTBE_890273425001CS_330nF 1 2
Rser 1 3 0.03789
Lser 2 4 0.00000000751
C1 3 4 0.00000033
Rpar 3 4 9000000000
.ends FTBE_890273425001CS_330nF
*******
.subckt FTBE_890283425002CS_220nF 1 2
Rser 1 3 0.03798
Lser 2 4 0.00000000649
C1 3 4 0.00000022
Rpar 3 4 9000000000
.ends FTBE_890283425002CS_220nF
*******
.subckt FTBE_890493425001CS_22nF 1 2
Rser 1 3 0.13969
Lser 2 4 0.00000000872
C1 3 4 0.000000022
Rpar 3 4 9000000000
.ends FTBE_890493425001CS_22nF
*******
.subckt FTBE_890303423005CS_68nF 1 2
Rser 1 3 0.04684
Lser 2 4 0.00000000521
C1 3 4 0.000000068
Rpar 3 4 9000000000
.ends FTBE_890303423005CS_68nF
*******
.subckt FTBE_890273423002CS_220nF 1 2
Rser 1 3 3.08399999999999E-02
Lser 2 4 0.00000000567
C1 3 4 0.00000022
Rpar 3 4 9000000000
.ends FTBE_890273423002CS_220nF
*******
.subckt FTBE_890283423001CS_100nF 1 2
Rser 1 3 0.0451
Lser 2 4 0.00000000498
C1 3 4 0.0000001
Rpar 3 4 9000000000
.ends FTBE_890283423001CS_100nF
*******
.subckt FTBE_890493423001CS_15nF 1 2
Rser 1 3 0.08794
Lser 2 4 0.00000000449
C1 3 4 0.000000015
Rpar 3 4 9000000000
.ends FTBE_890493423001CS_15nF
*******
