**************************************************
* Manufacturer:          Würth Elektronik
* Kinds:                 Film Capacitors
* Matchcode:             WCAP-FTBP
* Library Type:          Pspice
* Version:               rev24a
* Created/modified by:   Ella
* Date and Time:         7/11/2024
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************	
.subckt FTBP_890283322006CS_68nF 1 2
Rser 1 3 0.03885
Lser 2 4 0.00000000529
C1 3 4 0.000000068
Rpar 3 4 30000000000
.ends FTBP_890283322006CS_68nF
*******
.subckt FTBP_890273322005CS_150nF 1 2
Rser 1 3 0.02264
Lser 2 4 0.00000000572
C1 3 4 0.00000015
Rpar 3 4 30000000000
.ends FTBP_890273322005CS_150nF
*******
.subckt FTBP_890303322005CS_33nF 1 2
Rser 1 3 0.05194
Lser 2 4 0.00000000471
C1 3 4 0.000000033
Rpar 3 4 30000000000
.ends FTBP_890303322005CS_33nF
*******
.subckt FTBP_890443322001CS_100nF 1 2
Rser 1 3 0.02568
Lser 2 4 0.00000000648
C1 3 4 0.0000001
Rpar 3 4 30000000000
.ends FTBP_890443322001CS_100nF
*******
.subckt FTBP_890283327010CS_3R3uF 1 2
Rser 1 3 0.01497
Lser 2 4 0.00000001189
C1 3 4 0.0000033
Rpar 3 4 3030303030.30303
.ends FTBP_890283327010CS_3R3uF
*******
.subckt FTBP_890303327008CS_1R5uF 1 2
Rser 1 3 2.03799999999999E-02
Lser 2 4 0.000000015023
C1 3 4 0.0000015
Rpar 3 4 6666666666.66667
.ends FTBP_890303327008CS_1R5uF
*******
.subckt FTBP_890283327008CS_2R2uF 1 2
Rser 1 3 1.49599999999999E-02
Lser 2 4 0.00000001621
C1 3 4 0.0000022
Rpar 3 4 4545454545.45455
.ends FTBP_890283327008CS_2R2uF
*******
.subckt FTBP_890273327007CS_4R7uF 1 2
Rser 1 3 0.01213
Lser 2 4 0.00000001541
C1 3 4 0.0000047
Rpar 3 4 2127659574.46809
.ends FTBP_890273327007CS_4R7uF
*******
.subckt FTBP_890443327007CS_6R8uF 1 2
Rser 1 3 1.00599999999999E-02
Lser 2 4 0.00000001407
C1 3 4 0.0000068
Rpar 3 4 1470588235.29412
.ends FTBP_890443327007CS_6R8uF
*******
.subckt FTBP_890283327004CS_1uF 1 2
Rser 1 3 2.49799999999999E-02
Lser 2 4 0.00000001352
C1 3 4 0.000001
Rpar 3 4 10000000000
.ends FTBP_890283327004CS_1uF
*******
.subckt FTBP_890303326009CS_470nF 1 2
Rser 1 3 3.59799999999999E-02
Lser 2 4 0.00000000703
C1 3 4 0.00000047
Rpar 3 4 21276595744.6809
.ends FTBP_890303326009CS_470nF
*******
.subckt FTBP_890443326007CS_3R3uF 1 2
Rser 1 3 0.01337
Lser 2 4 0.00000000653
C1 3 4 0.0000033
Rpar 3 4 3030303030.30303
.ends FTBP_890443326007CS_3R3uF
*******
.subckt FTBP_890283326009CS_1uF 1 2
Rser 1 3 0.02517
Lser 2 4 0.00000000984
C1 3 4 0.000001
Rpar 3 4 10000000000
.ends FTBP_890283326009CS_1uF
*******
.subckt FTBP_890273326007CS_1R5uF 1 2
Rser 1 3 0.02314
Lser 2 4 0.00000000831
C1 3 4 0.0000015
Rpar 3 4 6666666666.66667
.ends FTBP_890273326007CS_1R5uF
*******
.subckt FTBP_890273326003CS_680nF 1 2
Rser 1 3 0.03348
Lser 2 4 0.00000001382
C1 3 4 0.00000068
Rpar 3 4 14705882352.9412
.ends FTBP_890273326003CS_680nF
*******
.subckt FTBP_890283326003CS_330nF 1 2
Rser 1 3 0.0492
Lser 2 4 0.00000001012
C1 3 4 0.00000033
Rpar 3 4 30000000000
.ends FTBP_890283326003CS_330nF
*******
.subckt FTBP_890303326003CS_150nF 1 2
Rser 1 3 0.0565
Lser 2 4 0.0000000103
C1 3 4 0.00000015
Rpar 3 4 30000000000
.ends FTBP_890303326003CS_150nF
*******
.subckt FTBP_890443325010CS_2R2uF 1 2
Rser 1 3 0.00987
Lser 2 4 0.00000000562
C1 3 4 0.0000022
Rpar 3 4 4545454545.45455
.ends FTBP_890443325010CS_2R2uF
*******
.subckt FTBP_890303325010CS_220nF 1 2
Rser 1 3 0.0360411729007
Lser 2 4 5.26798177E-09
C1 3 4 0.00000022
Rpar 3 4 30000000000
.ends FTBP_890303325010CS_220nF
*******
.subckt FTBP_890273325009CS_1uF 1 2
Rser 1 3 0.01982
Lser 2 4 0.00000000628
C1 3 4 0.000001
Rpar 3 4 10000000000
.ends FTBP_890273325009CS_1uF
*******
.subckt FTBP_890283325008CS_330nF 1 2
Rser 1 3 3.10999999999999E-02
Lser 2 4 0.00000000553
C1 3 4 0.00000033
Rpar 3 4 30000000000
.ends FTBP_890283325008CS_330nF
*******
.subckt FTBP_890303325008CS_150nF 1 2
Rser 1 3 3.69499999999999E-02
Lser 2 4 0.00000000715
C1 3 4 0.00000015
Rpar 3 4 30000000000
.ends FTBP_890303325008CS_150nF
*******
.subckt FTBP_890303325004CS_68nF 1 2
Rser 1 3 7.20999999999999E-02
Lser 2 4 0.00000000658
C1 3 4 0.000000068
Rpar 3 4 30000000000
.ends FTBP_890303325004CS_68nF
*******
.subckt FTBP_890273325005CS_470nF 1 2
Rser 1 3 4.97999999999999E-02
Lser 2 4 0.00000000617
C1 3 4 0.00000047
Rpar 3 4 21276595744.6809
.ends FTBP_890273325005CS_470nF
*******
.subckt FTBP_890283325002CS_100nF 1 2
Rser 1 3 5.00999999999999E-02
Lser 2 4 0.00000000735
C1 3 4 0.0000001
Rpar 3 4 30000000000
.ends FTBP_890283325002CS_100nF
*******
.subckt FTBP_890273323004CS_220nF 1 2
Rser 1 3 0.02495
Lser 2 4 0.00000000486
C1 3 4 0.00000022
Rpar 3 4 30000000000
.ends FTBP_890273323004CS_220nF
*******
.subckt FTBP_890443323004CS_330nF 1 2
Rser 1 3 0.02348
Lser 2 4 0.00000000736
C1 3 4 0.00000033
Rpar 3 4 30000000000
.ends FTBP_890443323004CS_330nF
*******
.subckt FTBP_890283323005CS_100nF 1 2
Rser 1 3 0.03015
Lser 2 4 0.00000000546
C1 3 4 0.0000001
Rpar 3 4 30000000000
.ends FTBP_890283323005CS_100nF
*******
.subckt FTBP_890303323004CS_47nF 1 2
Rser 1 3 5.77599999999999E-02
Lser 2 4 0.00000000607
C1 3 4 0.000000047
Rpar 3 4 30000000000
.ends FTBP_890303323004CS_47nF
*******
.subckt FTBP_890283323001CS_47nF 1 2
Rser 1 3 0.05374
Lser 2 4 0.00000000523
C1 3 4 0.000000047
Rpar 3 4 30000000000
.ends FTBP_890283323001CS_47nF
*******
