**************************************************
* Manufacturer:          Würth Elektronik
* Kinds:                 Film Capacitor
* Matchcode:             WCAP-FTDB
* Library Type:          Pspice
* Version:               rev24a
* Created/modified by:   Ella
* Date and Time:         7/11/2024
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************	
.subckt FTDB_890764429002CS_60uF 1 2
Rser 1 3 0.00585153402299
Lser 2 4 2.5169149709E-08
C1 3 4 0.00006
Rpar 3 4 167000000
.ends FTDB_890764429002CS_60uF
*******
.subckt FTDB_890764428004CS_40uF 1 2
Rser 1 3 0.00371
Lser 2 4 0.000000027
C1 3 4 0.00004
Rpar 3 4 250000000
.ends FTDB_890764428004CS_40uF
*******
.subckt FTDB_890764427009CS_10uF 1 2
Rser 1 3 0.013
Lser 2 4 0.0000000133
C1 3 4 0.00001
Rpar 3 4 1000000000
.ends FTDB_890764427009CS_10uF
*******
.subckt FTDB_890744429005CS_40uF 1 2
Rser 1 3 0.00571873831026
Lser 2 4 4.4252244217E-08
C1 3 4 0.00004
Rpar 3 4 250000000
.ends FTDB_890744429005CS_40uF
*******
.subckt FTDB_890744429002CS_25uF 1 2
Rser 1 3 0.0075
Lser 2 4 0.0000000349
C1 3 4 0.000025
Rpar 3 4 400000000
.ends FTDB_890744429002CS_25uF
*******
.subckt FTDB_890744428006CS_25uF 1 2
Rser 1 3 0.00725049401079
Lser 2 4 3.2514872084E-08
C1 3 4 0.000025
Rpar 3 4 400000000
.ends FTDB_890744428006CS_25uF
*******
.subckt FTDB_890744427005CS_5uF 1 2
Rser 1 3 0.016
Lser 2 4 0.0000000155
C1 3 4 0.000005
Rpar 3 4 2000000000
.ends FTDB_890744427005CS_5uF
*******
.subckt FTDB_890744427001CS_1uF 1 2
Rser 1 3 0.05
Lser 2 4 0.0000000114
C1 3 4 0.000001
Rpar 3 4 10000000000
.ends FTDB_890744427001CS_1uF
*******
.subckt FTDB_890734429007CS_50uF 1 2
Rser 1 3 0.00654658420506
Lser 2 4 4.78760863E-08
C1 3 4 0.00005
Rpar 3 4 200000000
.ends FTDB_890734429007CS_50uF
*******
.subckt FTDB_890734428008CS_30uF 1 2
Rser 1 3 0.00604587529315
Lser 2 4 3.6857834319E-08
C1 3 4 0.00003
Rpar 3 4 333000000
.ends FTDB_890734428008CS_30uF
*******
.subckt FTDB_890734428004CS_15uF 1 2
Rser 1 3 0.00484
Lser 2 4 0.000000032
C1 3 4 0.000015
Rpar 3 4 667000000
.ends FTDB_890734428004CS_15uF
*******
.subckt FTDB_890734427005CS_3uF 1 2
Rser 1 3 0.02
Lser 2 4 0.0000000153
C1 3 4 0.000003
Rpar 3 4 3333000000
.ends FTDB_890734427005CS_3uF
*******
.subckt FTDB_890724429010CS_75uF 1 2
Rser 1 3 0.004
Lser 2 4 0.000000032
C1 3 4 0.000075
Rpar 3 4 133000000
.ends FTDB_890724429010CS_75uF
*******
.subckt FTDB_890724429005CS_50uF 1 2
Rser 1 3 0.006
Lser 2 4 0.0000000284
C1 3 4 0.00005
Rpar 3 4 200000000
.ends FTDB_890724429005CS_50uF
*******
.subckt FTDB_890724427010CS_10uF 1 2
Rser 1 3 0.0125
Lser 2 4 0.0000000161
C1 3 4 0.00001
Rpar 3 4 1000000000
.ends FTDB_890724427010CS_10uF
*******
.subckt FTDB_890724427001CS_1uF 1 2
Rser 1 3 0.0495
Lser 2 4 0.0000000135
C1 3 4 0.000001
Rpar 3 4 10000000000
.ends FTDB_890724427001CS_1uF
*******
.subckt FTDB_890714429003CS_50uF 1 2
Rser 1 3 0.006
Lser 2 4 0.0000000272
C1 3 4 0.00005
Rpar 3 4 200000000
.ends FTDB_890714429003CS_50uF
*******
.subckt FTDB_890494429005CS_50uF 1 2
Rser 1 3 0.00693063421548
Lser 2 4 3.6302615749E-08
C1 3 4 0.00005
Rpar 3 4 200000000
.ends FTDB_890494429005CS_50uF
*******
.subckt FTDB_890494429003CS_40uF 1 2
Rser 1 3 0.0082424291924
Lser 2 4 2.9391658793E-08
C1 3 4 0.00004
Rpar 3 4 250000000
.ends FTDB_890494429003CS_40uF
*******
.subckt FTDB_890494428004CS_25uF 1 2
Rser 1 3 0.003538
Lser 2 4 0.000000028
C1 3 4 0.000025
Rpar 3 4 400000000
.ends FTDB_890494428004CS_25uF
*******
.subckt FTDB_890494427003CS_3uF 1 2
Rser 1 3 0.021
Lser 2 4 0.0000000173
C1 3 4 0.000003
Rpar 3 4 3333000000
.ends FTDB_890494427003CS_3uF
*******
.subckt FTDB_890484429001CS_75uF 1 2
Rser 1 3 0.00613739336009
Lser 2 4 2.631067956E-08
C1 3 4 0.000075
Rpar 3 4 133000000
.ends FTDB_890484429001CS_75uF
*******
.subckt FTDB_890484428002CS_35uF 1 2
Rser 1 3 0.0058
Lser 2 4 0.0000000158
C1 3 4 0.000035
Rpar 3 4 286000000
.ends FTDB_890484428002CS_35uF
*******
.subckt FTDB_890484427001CS_5uF 1 2
Rser 1 3 0.017
Lser 2 4 0.0000000122
C1 3 4 0.000005
Rpar 3 4 2000000000
.ends FTDB_890484427001CS_5uF
*******
